US08106215B2
A.4.2 Synthesis of N-[(1S,2S,5R)-7-methyl-3-aza-bicyclo[3.3.0]oct-2-ylmethyl]-2,2,2-trifluoro-acetamide
To a cold (0° C.) solution of (1S,2S,5R)-2-[(2,2,2-trifluoro-acetylamino)-methyl]-7-methyl-3-aza-bicyclo[3.3.0]-octane-3-carboxylic acid tert.-butyl ester (1.51 g) in DCM (13 mL) was slowly added TFA (3.31 mL, 10 eq). The reaction mixture was allowed to warm at RT and stirred overnight. Solvent and excess of TFA were removed in vacuo and the product was used for the next step without further purification.

reactant | (1S,2S,5R)-2-[(2,2,2-trifluoro-acetylamino)-methyl]-7-methyl-3-aza-bicyclo[3.3.0]-octane-3-carboxylic acid tert.-butyl ester | 1.51 g | C(C)(C)(C)OC(=O)N1[C@@H]([C@H]2CC(C[C@H]2C1)C)CNC(C(F)(F)F)=O | C16H25F3N2O3
reactant | TFA | 3.31 mL, 10 eq | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 13 mL | C(Cl)Cl | CH2Cl2
product | N-[(1S,2S,5R)-7-methyl-3-aza-bicyclo[3.3.0]oct-2-ylmethyl]-2,2,2-trifluoro-acetamide | CC1C[C@H]2CN[C@@H]([C@H]2C1)CNC(C(F)(F)F)=O | C11H17F3N2O
